US07348438B2
5,6-Dichloro-1-(2-methoxy-5-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (387 mg) in DMF (5 mL) was added potassium carbonate powder (596 mg) and 3-methoxy-5-nitro-benzyl bromide (1.06 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a peach-colored solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 387 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 596 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxy-5-nitro-benzyl bromide | 1.06 g | COC=1C=C(CBr)C=C(C1)[N+](=O)[O-] | C8H8BrNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(2-methoxy-5-nitro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=C(C=CC(=C2)[N+](=O)[O-])OC)C=C1Cl | C17H12Cl2F3N3O3
